US05994563
O,O-Diethyl (4-nitro)-2-thienylhydroxymethylphosphonate
Thiophene-2-carboxaldehyde (3.20 mL, 34.0 mmol) was dissolved in sulfuric acid (20 mL) and cooled to 0° C. Potassium nitrate (4.05 g, 44.0 mmol) was added and the resultant mixture was stirred for 30 minutes and was poured onto ice. The product was extracted with ether, washed with aqueous sodium bicarbonate, dried with anhyrous magnesium sulfate and evaporated to give an oil which was immediately mixed with diethylphosphite (4.40 mL, 34.0 mmol) and adsorbed onto excess basic alumina. After 18 hours, the product was extracted with methylene chloride, concentrated in vacuo to an oil and purified by column chromatography (silica gel) with ethyl acetate-hexane 1:1 to give 1.01 g (10.0%) as an oil. 1H NMR (DMSO-D6): d, 8.64 (s,1H) 7.62 (s,1H) 6.95 (dd,1H,OH), 5.36 (dd,1H,PCH), 4.05 (m,4H,CH2), 1.22 (t,6H,CH3). MS (DCl): 296 (MH+), 278 (M-OH). C9H14NO6PS.

reactant | Thiophene-2-carboxaldehyde | 34.0 mmol, 3.20 mL | S1C(=CC=C1)C=O | C5H4OS
reactant | Potassium nitrate | 44.0 mmol, 4.05 g | [N+](=O)([O-])[O-].[K+]
reactant | diethylphosphite | 34.0 mmol, 4.40 mL | C(C)OP(OCC)[O-]
solvent | sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
product | O,O-Diethyl (4-nitro)-2-thienylhydroxymethylphosphonate | [N+](=O)([O-])C=1C=C(SC1)C(O)P(OCC)(OCC)=O | C9H14NO6PS
